### PR TITLE
feat(ErdosProblems): 91

### LINKED ISSUE #324: Erdős Problems 91
### What is the conjecture
    
https://www.erdosproblems.com/91

  Suppose $A\subset \mathbb{R}^2$ has $\lvert A\rvert=n$ and minimises the number of distinct distances between points in $A$. Prove that for large $n$ there are at least two (and probably many) such $A$ which are non-similar.

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by rwst**
Resolves #324.

Note: I'm using Claude + Opus for supervised formalization tasks. Claude has no permission to use git on my machine.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/91.lean [hunk 1]
```diff
@@ -0,0 +1,102 @@
...
+*Reference:*
+- [erdosproblems.com/91](https://www.erdosproblems.com/91)
+-/
+
+open Finset EuclideanGeometry
+
+namespace Erdos91
+
+notation "E²" => EuclideanSpace ℝ (Fin 2)
+
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/91.lean]:
```suggestion
```

Just use our usual `ℝ²` notation (after `open scoped EuclideanGeometry`)

File: FormalConjectures/ErdosProblems/91.lean [hunk 2]
```diff
@@ -0,0 +1,102 @@
...
+/-- The set of distinct pairwise distances in a finite point set. -/
+noncomputable def distinctDistances (A : Finset E²) : ℕ :=
+  (A.offDiag.image fun p => dist p.1 p.2).card
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/91.lean]:
```suggestion

```
use `distinctDistances` from `FormalConjecturesForMathlib/Geometry/2d.lean`

File: FormalConjectures/ErdosProblems/91.lean [hunk 3]
```diff
@@ -0,0 +1,102 @@
...
+
+/-- The minimum number of distinct distances possible for any set of n points in $\mathbb R^2$. -/
+noncomputable def minDistanceCount (n : ℕ) : ℕ :=
+  sInf { k | ∃ (A : Finset E²), A.card = n ∧ distinctDistances A = k }
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/91.lean]: Let's move `minimalDistinctDistances` from `FormalConjectures/ErdosProblems/89.lean` to `FormalConjecturesForMathlib/Geometry/2d.lean` and ust this here.

File: FormalConjectures/ErdosProblems/91.lean [hunk 4]
```diff
@@ -0,0 +1,102 @@
...
+@[category test, AMS 52]
+lemma erdos_91.test.dissimilar_circleSeven_wheelSeven :
+    ¬IsSimilar circleSeven wheelSeven := by
+  sorry
+
+/-- Erdős Problem 91: For sufficiently large $n$, there are at least
+    two non-similar sets that minimize the number of distinct distances. -/
+@[category research open, AMS 52]
+theorem erdos_91 :
+  ∃ (n₀ : ℕ), ∀ (n : ℕ), n ≥ n₀ →
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/91.lean]:
```suggestion
  ∀ᶠ (n : ℕ) in Filter.atTop,
```

File: FormalConjectures/ErdosProblems/91.lean [hunk 5]
```diff
@@ -0,0 +1,102 @@
...
+
+/-- A set $A$ is 'optimal' if it has $n$ points and achieves the minimum distance count. -/
+noncomputable def IsOptimal (A : Finset E²) (n : ℕ) : Prop :=
+  A.card = n ∧ distinctDistances A = minDistanceCount n
+
+/-- Two sets are similar if one can be mapped to the other by scaling, rotation/reflection,
+and translation. -/
+def IsSimilar (A B : Finset E²) : Prop :=
+  ∃ (c : ℝ) (f : E² ≃ₗᵢ[ℝ] E²) (v : E²), 0 < c ∧
+    B = A.image (fun x => c • (f x) + v)
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/91.lean]: perhaps rather something like:
```lean
/-- Two finite sets of points in $\mathbb{R}^2$ are similar if one can be mapped to the other by a
DilationEquiv. -/
def DilationEquivSimilar (A B : Finset ℝ²) : Prop :=
  ∃ f : ℝ² ≃ᵈ ℝ², (f '' A.toSet) = B.toSet
```

File: FormalConjectures/ErdosProblems/91.lean [hunk 6]
```diff
@@ -0,0 +1,102 @@
...
+  sorry
+
+/-- Erdős Problem 91: For sufficiently large $n$, there are at least
+    two non-similar sets that minimize the number of distinct distances. -/
+@[category research open, AMS 52]
+theorem erdos_91 :
+  ∃ (n₀ : ℕ), ∀ (n : ℕ), n ≥ n₀ →
+    ∃ (A B : Finset E²), IsOptimal A n ∧ IsOptimal B n ∧ ¬IsSimilar A B := by
+  sorry
+
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/91.lean:167]: to stay closer with the text, one could define a UniquMinimizer Prop and the follow the website like:
```lean
/--
The predicate on $n$ asserting all $A, B\subset \mathbb{R}^2$,
with $\lvert A\rvert=n = \lvert B\rvert$, which minimise the number of distinct points for all sets
with $n$ elements are similar.
-/
def UniqueMinimizer (n : ℕ) : Prop :=
  ∀ (A B : Finset ℝ²),  A.card = n → B.card = n →
  minimalDistinctDistances n = distinctDistances A →
  minimalDistinctDistances n = distinctDistances B → DilationEquivSimilar A B

/--
Suppose $A\subset \mathbb{R}^2$ has $\lvert A\rvert=n$ and minimises the number of distinct
distances between points in $A$. Prove that for large $n$ there are at least two
(and probably many) such $A$ which are non-similar.
-/
@[category research open, AMS 52]
theorem erdos_91 :
    (∀ᶠ n : ℕ in atTop, ¬ UniqueMinimizer n) ↔ answer(sorry) := by
  sorry


/--
For $n = 3$ the equilateral triangle is the only such set.
-/
@[category research solved, AMS 52]
theorem erdos_91.variants.three : UniqueMinimizer 3 := by
  sorry


/--
For $n=4$ the square or two equilateral triangles sharing an edge give two
non-similar examples.
-/
@[category research solved, AMS 52]
theorem erdos_91.variants.four : ¬ UniqueMinimizer 4 := by
  sorry


/--
For $n = 5$ the regular pentagon is the unique such set (which has two distinct distances).
Erdős mysteriously remarks in [Er90] this was proved by 'a colleague'. (In [Er87b] this is
described as 'a colleague from Zagreb (unfortunately I do not have his letter)'.)
A published proof of this fact is provided by Kovács [Ko24c].
-/
@[category research solved, AMS 52]
theorem erdos_91.variants.five : UniqueMinimizer 5 := by
  sorry

/--
In [Er87b] on p.171 Erdős says that there are at least two non-similar examples for $n = 6$.
-/
@[category research solved, AMS 52]
theorem erdos_91.variants.six: ¬ UniqueMinimizer 6 := by
  sorry


/--
In [Er87b] on p.171 Erdős says that there are at least two non-similar examples for $n = 7$.
-/
@[category research solved, AMS 52]
theorem erdos_91.variants.seven: ¬ UniqueMinimizer 7 := by
  sorry


/--
In [Er87b] on p.171 Erdős says that there are at least two non-similar examples for $n = 8$.
-/
@[category research solved, AMS 52]
theorem erdos_91.variants.eight: ¬ UniqueMinimizer 8 := by
  sorry


/--
In [Er87b] on p.171 Erdős says that there are at least two non-similar examples for $n = 9$.
-/
@[category research solved, AMS 52]
theorem erdos_91.variants.nine: ¬ UniqueMinimizer 9 := by
  sorry
```

File: FormalConjectures/ErdosProblems/91.lean [hunk 7]
```diff
@@ -0,0 +1,102 @@
...
+   !₂[3 / 2, 0]}
+
+@[category test, AMS 52]
+lemma erdos_91.test.unitSquare_optimal : IsOptimal unitSquare 4 := by
+  sorry
+
+@[category test, AMS 52]
+lemma erdos_91.test.unitSquare_unique_optimal :
+    ∀ A : Finset E², IsOptimal A 4 → IsSimilar A unitSquare := by
+  sorry
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/91.lean:118]: Isn't that false? Two equilateral triangles sharing an edge also work?

File: FormalConjectures/ErdosProblems/91.lean [hunk 8]
```diff
@@ -0,0 +1,102 @@
...
+   !₂[2, Real.sqrt 3 / 2],
+   !₂[3 / 2, Real.sqrt 3],
+   !₂[1 / 2, Real.sqrt 3],
+   !₂[0, Real.sqrt 3 / 2],
+   !₂[1 / 2, 0],
+   !₂[3 / 2, 0]}
+
+@[category test, AMS 52]
+lemma erdos_91.test.unitSquare_optimal : IsOptimal unitSquare 4 := by
+  sorry
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/91.lean:114]: just fyi: AlphaProof can prove this, a good sanity check: 
```lean
@[category test, AMS 52]
lemma erdos_91.test.unitSquare_optimal : IsOptimal unitSquare 4 := by
  delta unitSquare IsOptimal
  norm_num [distinctDistances, minDistanceCount, ←List.ofFn_injective.eq_iff]
  use symm.comp IsLeast.csInf_eq ⟨ ⟨ _,by simp_all[←List.ofFn_injective.eq_iff], rfl⟩,Set.forall_mem_image.mpr fun and x =>match (and.card_eq_four).1 x with|⟨y,z,s, a, _⟩=>?_⟩
  trans(2)
  · norm_num[dist_eq_norm, Finset.offDiag_insert, EuclideanSpace.norm_eq]
    delta Finset.offDiag Finset.card
    norm_num [Multiset.filter_singleton, ←List.ofFn_injective.eq_iff]
    use Multiset.card_le_card (Multiset.dedup_le _)
  by_cases h:dist y z=dist y s∧dist y z=dist y a∧dist y s =dist z s∧dist z s =dist z a∧dist s a=dist y a
  · replace x:LinearIndependent ℝ ![y-z,s-z]
    · use(LinearIndependent.pair_iff' (by field_simp[*, sub_ne_zero])).2 fun and j=>‹¬y =z∧_›.1 ((dist_eq_zero.1) ? _)
      field_simp[dist_eq_norm,EuclideanSpace.norm_eq,←add_eq_of_eq_sub j] at h⊢
      nlinarith only[h.1,h.2.2.1.trans (by rw [mul_pow, mul_pow,sq_abs,sq_abs _,sq_abs])]
    replace: a=(1/3:ℝ) •(y+z+s):=Matrix.mulVec_injective_of_isUnit (Matrix.linearIndependent_rows_iff_isUnit.1 x) ?_
    · field_simp[*,dist_eq_norm,EuclideanSpace.norm_eq] at h
      rcases x.ne_zero 0 (funext ( match · with|0|1=> sub_eq_zero.2 (by nlinarith only [Real.sq_sqrt (h.1.ge.trans' (by bound)),h.1,h.2.1▸Real.sq_sqrt (by(bound)), (h.right.right.1)])))
    · field_simp [ dist_eq_norm, EuclideanSpace.norm_eq,←List.ofFn_injective.eq_iff,Matrix.mulVec_eq_sum] at h⊢
      repeat use(Fin.sum_univ_two _).trans ( (Fin.sum_univ_two _).trans<|by linarith).symm
  · use not_lt.1 (h ∘ (by repeat use Finset.card_le_one.1 ·.le_pred _ (Finset.mem_image.2 ⟨(_, _),by norm_num[*], rfl⟩) (_) ( Finset.mem_image.2 ⟨(_, _),by norm_num[*], rfl⟩)))
```

**Review by mo271 — COMMENTED** [review]
Thanks!

File: FormalConjectures/ErdosProblems/91.lean (hunk 7 above)
Comment (rwst) [reply FormalConjectures/ErdosProblems/91.lean:118]: Nope, that makes two distances (the distance between the two unshared nodes is bigger).

File: FormalConjectures/ErdosProblems/91.lean (hunk 6 above)
Comment (rwst) [reply FormalConjectures/ErdosProblems/91.lean:167]: Thanks!

File: FormalConjectures/ErdosProblems/91.lean [hunk 9]
```diff
@@ -0,0 +1,165 @@
...
+namespace Erdos91
+
+/-- A set $A$ is 'optimal' if it has $n$ points and achieves the minimum distance count. -/
+noncomputable def IsOptimal (A : Finset ℝ²) (n : ℕ) : Prop :=
+  A.card = n ∧ distinctDistances A = minimalDistinctDistances n
+
+/-- Two finite sets of points in $\mathbb{R}^2$ are similar if one can be mapped to the other by a
+DilationEquiv. -/
+def DilationEquivSimilar (A B : Finset ℝ²) : Prop :=
+  ∃ f : ℝ² ≃ᵈ ℝ², (f '' A.toSet) = B.toSet
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/91.lean]:
```suggestion
  ∃ f : ℝ² ≃ᵈ ℝ², (f '' A) = B
```

File: FormalConjectures/ErdosProblems/91.lean [hunk 10]
```diff
@@ -0,0 +1,165 @@
...
+
+noncomputable def unitSquare : Finset ℝ² := {![0, 0], ![0, 1], ![1, 0], ![1, 1]}
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/91.lean]:
```suggestion
noncomputable def unitSquare : Finset ℝ² := {!₂[0, 0], !₂[0, 1], !₂[1, 0], !₂[1, 1]}
```

File: FormalConjectures/ErdosProblems/91.lean [hunk 11]
```diff
@@ -0,0 +1,165 @@
...
+
+/-- Regular 7-gon with unit side length, touching both axes in the first quadrant. -/
+noncomputable def circleSeven : Finset ℝ² :=
+  let r := 1 / (2 * Real.sin (Real.pi / 7))
+  let cx := r * Real.cos (Real.pi / 7)
+  let cy := r * Real.sin (4 * Real.pi / 7)
+  (Finset.range 7).image fun k : ℕ =>
+    ![r * Real.cos (2 * Real.pi * ↑k / 7) + cx, r * Real.sin (2 * Real.pi * ↑k / 7) + cy]
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/91.lean]:
```suggestion
    !₂[r * Real.cos (2 * Real.pi * ↑k / 7) + cx, r * Real.sin (2 * Real.pi * ↑k / 7) + cy]
```

File: FormalConjectures/ErdosProblems/91.lean [hunk 12]
```diff
@@ -0,0 +1,165 @@
...
+/-- Wheel graph on 7 vertices (center + regular hexagon) with unit side length,
+touching both axes in the first quadrant. -/
+noncomputable def wheelSeven : Finset ℝ² :=
+  {![1, Real.sqrt 3 / 2],
+   ![2, Real.sqrt 3 / 2],
+   ![3 / 2, Real.sqrt 3],
+   ![1 / 2, Real.sqrt 3],
+   ![0, Real.sqrt 3 / 2],
+   ![1 / 2, 0],
+   ![3 / 2, 0]}
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/91.lean]:
```suggestion
  {!₂[1, Real.sqrt 3 / 2],
   !₂[2, Real.sqrt 3 / 2],
   !₂[3 / 2, Real.sqrt 3],
   !₂[1 / 2, Real.sqrt 3],
   !₂[0, Real.sqrt 3 / 2],
   !₂[1 / 2, 0],
   !₂[3 / 2, 0]}
```

**Review by mo271 — COMMENTED** [review]
some changes after bumping to new lean version

File: FormalConjectures/ErdosProblems/91.lean (hunk 7 above)
Comment (mo271) [reply FormalConjectures/ErdosProblems/91.lean:118]: But the square also has two distances, no? If the side lengths are 1 then the two diagonals are $\sqrt{2}$?
Also there is yet another minimiser: the equilateral triangle with its center point. and even some more, see picture. 
Screenshot from 2026-03-15 09-43-31

or am I misunderstanding something here?

File: FormalConjectures/ErdosProblems/91.lean [hunk 13]
```diff
@@ -0,0 +1,165 @@
...
+
+/--
+The predicate on $n$ asserting all $A, B\subset \mathbb{R}^2$,
+with $\lvert A\rvert=n = \lvert B\rvert$, which minimise the number of distinct points for all sets
+with $n$ elements are similar.
+-/
+def UniqueMinimizer (n : ℕ) : Prop :=
+  ∀ (A B : Finset ℝ²),  A.card = n → B.card = n →
+  minimalDistinctDistances n = distinctDistances A →
+  minimalDistinctDistances n = distinctDistances B → DilationEquivSimilar A B
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/91.lean]:
```suggestion
def UniqueMinimizer (n : ℕ) : Prop :=
  ∀ A B : Finset ℝ², IsOptimal A n → IsOptimal B n → DilationEquivSimilar A B
```

can this be simplified like this using `IsOptimal`?

Comment (rwst) [reply FormalConjectures/ErdosProblems/91.lean]: I think so, yes.

File: FormalConjectures/ErdosProblems/91.lean (hunk 7 above)
Comment (rwst) [reply FormalConjectures/ErdosProblems/91.lean:118]: You're right. I'll probably add the equilateral triangle as unique optimal(3), and weaken the square statement to optimal.

Comment (rwst) [reply FormalConjectures/ErdosProblems/91.lean:118]: Done. The triangle optimality proof has 40 lines, so I'm including it.

File: FormalConjectures/ErdosProblems/91.lean [hunk 14]
```diff
@@ -0,0 +1,211 @@
...
+
+Unless required by applicable law or agreed to in writing, software
+distributed under the License is distributed on an "AS IS" BASIS,
+WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
+See the License for the specific language governing permissions and
+limitations under the License.
+-/
+
+import FormalConjectures.Util.ProblemImports
+import FormalConjecturesForMathlib.Geometry.«2d»
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/91.lean]:
```suggestion
```

**Review by mo271 — APPROVED** [review]
Thanks, LGTM!
